US09107415B2
A solution of rac-2-(2,6-dimethyl-4-prop-1-ynylphenyl)-3-methoxy-5-pyridin-2-ylmethylcyclopent-2-enone (0.5 g, 1.45 mmol) in acetone (10 ml) and 2N hydrochloric acid (5 ml) is heated at 80°C. under microwave irradiation for 40 minutes. Volatile solvents are removed in vacuo and residue is diluted with distilled water (50 ml) and extracted with ethyl acetate (3×50 ml). The combined organic fractions are washed again with distilled water, brine, dried over sodium sulfate, filtered and the filtrate concentrated in vacuo. The crude product is purified by flash column chromatography to afford rac-2-(2,6-Dimethyl-4-prop-1-ynylphenyl)-4-pyridin-2-ylmethylcyclopentane-1,3-dione.

reactant | rac-2-(2,6-dimethyl-4-prop-1-ynylphenyl)-3-methoxy-5-pyridin-2-ylmethylcyclopent-2-enone | 1.45 mmol, 0.5 g | CC1=C(C(=CC(=C1)C#CC)C)C=1C(C(CC1OC)CC1=NC=CC=C1)=O | C23H23NO2
solvent | acetone | 10 ml | CC(=O)C | C3H6O
solvent | hydrochloric acid | 2N, 5 ml | Cl | ClH
product | rac-2-(2,6-Dimethyl-4-prop-1-ynylphenyl)-4-pyridin-2-ylmethylcyclopentane-1,3-dione | CC1=C(C(=CC(=C1)C#CC)C)C1C(CC(C1=O)CC1=NC=CC=C1)=O | C22H21NO2
